### PR TITLE
feat: distributivity theorems for `shiftLeft` over `&&&`, `|||`, and `shiftRight`

### LINKED ISSUE #622: BitVec: Proof `(a >>> n <<< n) &&& (b <<< n) = (a &&& b <<< n)`
Proofing `theorem bb {a b : BitVec w} { n : Nat} :(a >>> n <<< n) &&& (b <<< n) = (a &&& b <<< n)` should be sufficient to close `bv_InstCombineShift__476`.

### PR DESCRIPTION
**Pull request by luisacicolini**

### CODE REVIEW

File: SSA/Projects/InstCombine/ForLean.lean [hunk 1]
```diff
@@ -622,6 +622,36 @@ theorem add_shiftLeft_distrib (x y : BitVec w) (n : Nat) :
     rw [Nat.mod_eq_of_eq]
     omega
 
+@[simp]
+theorem allOnes_and (x : BitVec w) :
+    BitVec.allOnes w &&& x = x := by
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]:
```suggestion
theorem allOnes_and {x : BitVec w} :
    BitVec.allOnes w &&& x = x := by
```

File: SSA/Projects/InstCombine/ForLean.lean [hunk 2]
```diff
@@ -622,6 +622,36 @@ theorem add_shiftLeft_distrib (x y : BitVec w) (n : Nat) :
...
+  ext; simp [BitVec.negOne_eq_allOnes, BitVec.allOnes_sub_eq_xor];
+
+@[simp]
+theorem allOnes_shiftLeft_and_shiftLeft (a : BitVec w) (n : Nat) :
+    BitVec.allOnes w <<< n &&& a <<< n = a <<< n := by
+    induction n
+    case zero =>
+      simp
+    case succ =>
+      simp [BitVec.shiftLeft_add, ← BitVec.shiftLeft_and_distrib]
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]:
```suggestion
@[simp]
theorem allOnes_shiftLeft_and_shiftLeft {x : BitVec w} {n : Nat} :
    BitVec.allOnes w <<< n &&& x <<< n = x <<< n := by
    induction n
    case zero =>
      simp
    case succ =>
      simp [BitVec.shiftLeft_add, ← BitVec.shiftLeft_and_distrib]
```

File: SSA/Projects/InstCombine/ForLean.lean [hunk 3]
```diff
@@ -622,6 +622,36 @@ theorem add_shiftLeft_distrib (x y : BitVec w) (n : Nat) :
...
+
+@[simp]
+theorem and_shiftLeft_allOnes (a c : BitVec w) (b : Nat):
+  a &&& BitVec.allOnes w <<< b &&& c <<< b = a &&& c <<< b := by
+  induction b
+  case zero =>
+    ext; simp
+  case succ n ih =>
+    simp [BitVec.and_assoc, allOnes_shiftLeft_and_shiftLeft (n := (n + 1)) (a := c)]
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]:
```suggestion
@[simp]
theorem and_shiftLeft_allOnes {x y : BitVec w} {n : Nat} :
  x &&& BitVec.allOnes w <<< n &&& y <<< n = x &&& y <<< n := by
  induction b
  case zero =>
    ext; simp
  case succ n ih =>
    simp [BitVec.and_assoc, allOnes_shiftLeft_and_shiftLeft (n := (n + 1)) (a := c)]
```

File: SSA/Projects/InstCombine/ForLean.lean [hunk 4]
```diff
@@ -622,6 +622,36 @@ theorem add_shiftLeft_distrib (x y : BitVec w) (n : Nat) :
...
+
+@[simp]
+theorem shiftRight_and_or_shiftLeft_distrib (a b c d: BitVec w) :
+    (a >>> b.toNat &&& c ||| d) <<< b.toNat = a &&& c <<< b.toNat ||| d <<< b.toNat := by
+  rw [BitVec.shiftLeft_or_distrib]
+  rw [BitVec.shiftLeft_and_distrib]
+  simp
+
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]:
```suggestion
@[simp]
theorem shiftRight_and_or_shiftLeft_distrib {x y z : BitVec w} {n : Nat} :
    (x >>> n &&& y ||| z) <<< n = x &&& y <<< n ||| z <<< n := by
  rw [BitVec.shiftLeft_or_distrib]
  rw [BitVec.shiftLeft_and_distrib]
  simp

```
